US06841671B2
A mixture of affording 1-[6-(4-Hydrazinocarbonyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.20 g, 0.44 mmol), trimethylorthoformate (0.1 mL, 0.91 mmol) and 1 mL of xylenes was refluxed for 24 hours. The mixture was concentrated in vacuo, affording 1-[6-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.2 g) as a colorless syrup. MS (APCl, m/z): 467.2 [M+H]+.

reactant | 1-[6-(4-Hydrazinocarbonyl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.44 mmol, 0.20 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)C(=O)NN)C(=O)OCC | C22H24N4O7
reactant | trimethylorthoformate | 0.91 mmol, 0.1 mL | COC(OC)OC | C4H10O3
product | 1-[6-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.2 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=1OC=NN1)C(=O)OCC | C23H22N4O7
